US05500417
(2-Methyl-1-naphthalenylmethyl)phosphonic acid, dimethyl ester
A solution of 1-chloromethyl-2-methylnaphthalene (9.50 g, 0.050 M) in trimethylphosphite (15 mL, 15.8 g, 0.13 M) is heated at reflux temperature for 48 hours. Excess trimethylphosphite is removed under reduced pressure, giving a yellow oil which is chromatographed over silica gel (40-63 μ, 400 g, 50 mL fractions) using ethyl acetate for elution of the column. Fractions 18-21 are pooled and after concentration gave a white solid (7.78 g). Recrystallization from ether-pentane gave title compound (6.94 g) as colorless crystals, mp 54°-57° C.

reactant | 1-chloromethyl-2-methylnaphthalene | 0.050 M, 9.50 g | ClCC1=C(C=CC2=CC=CC=C12)C | C12H11Cl
reactant | trimethylphosphite | 0.13 M, 15 mL, 15.8 g | COP(OC)OC | C3H9O3P
product | (2-Methyl-1-naphthalenylmethyl)phosphonic acid, dimethyl ester | 7.78 g | CC1=C(C2=CC=CC=C2C=C1)CP(OC)(OC)=O | C14H17O3P
